US05597826
7-(3-Chlorobenzamido)-1-(4-methyl-1-piperazinyl)-naphthalene
The title product was prepared following the procedure of example 3 from 7-amino-1-(4-methyl-l-piperazinyl)-naphthalene (0.24 g, 0.995 mmol) and triethylamine (0.146 mL, 1.09 mmol) and 3-chlorobenzoyl chloride (0.138 mL, 1.09 mmol) in acetonitrile (10 mL) with overnight stirring at room temperature. The product was isolated using flash chromatography and trituration from hexane and recrystallization from ethyl acetate (with a seed crystal) to yield 0.076g (20%) of the title compound: mp 147°-148° C. HRMS m/e calculated for C22H22ClN3O; 379.1448. Observed m/e: 379.14473. Analysis calculated for C22H22ClN3O: C, 69.56; H, 5.84; N, 11.06. Found: C, 68.95; H, 5.81; N, 10.96.

reactant | 7-amino-1-(4-methyl-l-piperazinyl)-naphthalene | 0.995 mmol, 0.24 g | NC1=CC=C2C=CC=C(C2=C1)N1CCN(CC1)C | C15H19N3
reactant | triethylamine | 1.09 mmol, 0.146 mL | C(C)N(CC)CC | C6H15N
reactant | 3-chlorobenzoyl chloride | 1.09 mmol, 0.138 mL | ClC=1C=C(C(=O)Cl)C=CC1 | C7H4Cl2O
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 7-(3-Chlorobenzamido)-1-(4-methyl-1-piperazinyl)-naphthalene | 0.076g, 20% | ClC=1C=C(C(=O)NC2=CC=C3C=CC=C(C3=C2)N2CCN(CC2)C)C=CC1 | C22H22ClN3O
